US04523014
1-Hexanoyl-4-(3-Ketohexyl)piperazine HCl
A mixture of 1.8 g (0.01 mole) of n-hexyl piperazine and 1.9 g (0.014 mole) of 1-chloro-3-hexanone was heated to 120° C. for 5 minutes. The reaction product was slurried with ether, filtered and crystallized from acetonitrile to yield 4.2 g of product having a melting point of 162°-164° C.

reactant | n-hexyl piperazine | 0.01 mole, 1.8 g | C(CCCCC)N1CCNCC1 | C10H22N2
reactant | 1-chloro-3-hexanone | 0.014 mole, 1.9 g | ClCCC(CCC)=O | C6H11ClO
reactant | ether | CCOCC | C4H10O
product | 1-Hexanoyl-4-(3-Ketohexyl)piperazine HCl | 4.2 g | Cl.C(CCCCC)(=O)N1CCN(CC1)CCC(CCC)=O | InChI=1S/C16H30N2O2.ClH/c1-3-5-6-8-16(20)18-13-11-17(12-14-18)10-9-15(19)7-4-2;/h3-14H2,1-2H3;1H
